US07414063B2
Isoquinoline-5-sulfonic acid {2-[2-(4-bromo-phenylamino)-ethylamino]-ethyl}-amide tri-hydrochloric acid
A 1N HCl in diethyl ether solution (3 mL) is added to a stirred solution of (4-bromo-phenyl)-{2-[2-(isoquinoline-5-sulfonylamino)-ethylamino]-ethyl}-carbamic acid tert-butyl ester (138 mg, 0.251 mmol) in methylene chloride (3 mL). The mixture is allowed to stir for 4 hours to form a suspension. After concentration, methylene chloride (3 mL) is added to the solid. The suspension is sonicated and filtered to give 124 mg (89% yield) of the title compound as a solid. ESIMS: m/z 449 [(M+H)+, 79Br], 451 [(M+H)+, 81Br].

reactant | HCl | 1N | Cl | ClH
reactant | (4-bromo-phenyl)-{2-[2-(isoquinoline-5-sulfonylamino)-ethylamino]-ethyl}-carbamic acid tert-butyl ester | 0.251 mmol, 138 mg | C(C)(C)(C)OC(N(CCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)C1=CC=C(C=C1)Br)=O | C24H29BrN4O4S
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | Isoquinoline-5-sulfonic acid {2-[2-(4-bromo-phenylamino)-ethylamino]-ethyl}-amide tri-hydrochloric acid | 124 mg, 89% yield | Cl.Cl.Cl.BrC1=CC=C(C=C1)NCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | InChI=1S/C19H21BrN4O2S.3ClH/c20-16-4-6-17(7-5-16)23-12-10-21-11-13-24-27(25,26)19-3-1-2-15-14-22-9-8-18(15)19;;;/h1-9,14,21,23-24H,10-13H2;3*1H
